US07732456B2
(2) Preparation of 4-(6-fluoro-3-pyridinyl)methoxy-1-{4-[2-(1-piperidinyl)ethoxy]phenyl}-1H-pyridin-2-one
Into a DMF solution (0.8 mL) of 4-hydroxy-1-{4-[2-(1-piperidinyl)ethoxy]phenyl}-1H-pyridin-2-one (20 mg, 0.065 mmol), NaH (60% oiliness, 3 mg, 0.078 mmol) was added and stinred at room temeture for 20 minutes, followed by addition of DMF solution (0.2 mL) of 2-fluoro-5-methanesulfonyloxymethylpyridine (20 mg, 0.097 mmol), stirring at the same temperature for 2.5 hours and further an overnight stirring at 80° C. Ethyl acetate was added to the reaction liquid, which was then washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine and dried over anhydrous sodium sulfate. Concentrating the solvent under reduced pressure, the resulting residue was purified on silica gel column chromatography (C-300; methanol:chloroform=1:10) to provide the title compound (12.5 mg, 45%).

reactant | DMF | 0.8 mL | CN(C)C=O | C3H7NO
reactant | 4-hydroxy-1-{4-[2-(1-piperidinyl)ethoxy]phenyl}-1H-pyridin-2-one | 0.065 mmol, 20 mg | OC1=CC(N(C=C1)C1=CC=C(C=C1)OCCN1CCCCC1)=O | C18H22N2O3
reactant | NaH | 0.078 mmol, 3 mg | [H-].[Na+]
reactant | DMF | 0.2 mL | CN(C)C=O | C3H7NO
reactant | 2-fluoro-5-methanesulfonyloxymethylpyridine | 0.097 mmol, 20 mg | FC1=NC=C(C=C1)COS(=O)(=O)C | C7H8FNO3S
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(6-fluoro-3-pyridinyl)methoxy-1-{4-[2-(1-piperidinyl)ethoxy]phenyl}-1H-pyridin-2-one | 12.5 mg, 45% | FC1=CC=C(C=N1)COC1=CC(N(C=C1)C1=CC=C(C=C1)OCCN1CCCCC1)=O | C24H26FN3O3
